US06432950B1
The replacement of the keto group by Cl under the formation of the aromatic pyrimidine ring takes place under standard conditions. A mixture of POCl3 (18 ml) with 3,4-dihydro-4-oxo-2,4pyridin-3-yl)-6-methyl-thieno-[2,3-d]-pyrimidine (6 g) is refluxed for 4 hours under the addition of N,N-dimethylaniline (1,8 m). The usual workup yields 4-chloro-2-(pyridin-3-yl)-6-methyl-thieno-[2,3-d]-pyrimidine (5 g).

reactant | POCl3 | 18 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | 6-methyl-thieno-[2,3-d]-pyrimidine | 6 g | CC1=CC2=C(N=CN=C2)S1 | C7H6N2S
reactant | N,N-dimethylaniline | CN(C1=CC=CC=C1)C | C8H11N
product | 4-chloro-2-(pyridin-3-yl)-6-methyl-thieno-[2,3-d]-pyrimidine | 5 g | ClC=1C2=C(N=C(N1)C=1C=NC=CC1)SC(=C2)C | C12H8ClN3S
